US06180635B2
a) 3-(4-Methoxyphenyl)propanal
A solution of 3-(4-methoxyphenyl)propan-1-ol (15.02 g) in dichloromethane (100 ml) was added to a stirred suspension of pyridinium chlorochromate (29 g) in dichloromethane (250 ml). The mixture was stirred for 2 hours then filtered through a kieselguhr pad. The residue was washed with ether (3×500 ml) and the combined liquors were evaporated under reduced pressure. The residual oil was purified by vacuum distillation to give the subtitle compound (6.81 g) as an oil.

reactant | 3-(4-methoxyphenyl)propan-1-ol | 15.02 g | COC1=CC=C(C=C1)CCCO | C10H14O2
reactant | pyridinium chlorochromate | 29 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-(4-Methoxyphenyl)propanal | 6.81 g | COC1=CC=C(C=C1)CCC=O | C10H12O2
